US07572921B2
1-(3-Chloro-5-iodo-benzyl)-2-(4-fluoro-phenoxymethyl)-1H-imidazole
To a solution of 2-(4-fluoro-phenoxymethyl)-1H-imidazole in DMF was added freshly ground K2CO3 followed by bromomethyl-3-chloro-5-iodo-benzene. The reaction mixture was stirred at room temperature until most of starting material was consumed. The reaction mixture was then diluted with ethyl acetate and washed with water. The organic phase was dried over MgSO4 and concentrated. The resulting residue was purified by silica gel preparative TLC using CH2Cl2:MeOH 95:5 as an eluent to afford the title compound (275 mg, 60%); MS m/z 442 [C17H13ClFIN2O+H]+.

reactant | 2-(4-fluoro-phenoxymethyl)-1H-imidazole | FC1=CC=C(OCC=2NC=CN2)C=C1 | C10H9FN2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | bromomethyl-3-chloro-5-iodo-benzene | BrCC1=CC(=CC(=C1)I)Cl | C7H5BrClI
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(3-Chloro-5-iodo-benzyl)-2-(4-fluoro-phenoxymethyl)-1H-imidazole | 275 mg, 60% | ClC=1C=C(CN2C(=NC=C2)COC2=CC=C(C=C2)F)C=C(C1)I | C17H13ClFIN2O
